US07465731B2
To a solution of (2E)-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (240 mg) in ethanol (3.6 mL) was added 2N HCl-EtOH (10.1 mL), which was stirred at room temperature for 1 hour. To the resultant was added ethyl acetate (9.6 mL), which was stirred for 1 hour. The precipitate was filtered to give (2E)-N-hydroxy-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylamide dihydrochloride (223 mg) as a yellow powder.

reactant | (2E)-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 240 mg | COC=1C=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=CC1 | C24H31N5O4
reactant | HCl EtOH | 2N, 10.1 mL | Cl.CCO
reactant | ethyl acetate | 9.6 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3.6 mL | C(C)O | C2H6O
product | (2E)-N-hydroxy-3-(5-{[(3R)-1-(3-methoxybenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylamide dihydrochloride | 223 mg | Cl.Cl.ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CC1)CC1=CC(=CC=C1)OC)=O | InChI=1S/C19H23N5O3.2ClH/c1-27-17-4-2-3-14(9-17)12-24-8-7-16(13-24)22-18-11-20-15(10-21-18)5-6-19(25)23-26;;/h2-6,9-11,16,26H,7-8,12-13H2,1H3,(H,21,22)(H,23,25);2*1H/b6-5+;;/t16-;;/m1../s1
